# Qucs 25.2.0  /Users/fredericdruppel/Documents/Projects/2026-02-19_Linear_RF_PA/sim/amp_qucs_sim.qucs.sch

Pac:P3 _net0 gnd Num="3" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
MLIN:MS1 _net1 _net2 Subst="Sub1" W="1.88 mm" L="92.6 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
MLIN:MS2 _net2 _net3 Subst="Sub1" W="981 um" L="95.1 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
MLIN:MS3 _net2 _net4 Subst="Sub1" W="981 um" L="95.1 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
R:R1 _net4 _net3 R="100 Ohm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
Pac:P4 gnd _net3 Num="4" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Pac:P5 gnd _net4 Num="5" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
MLIN:MS4 _net5 _net6 Subst="Sub1" W="1.88 mm" L="92.6 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
MLIN:MS5 _net6 _net7 Subst="Sub1" W="981 um" L="95.1 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
MLIN:MS6 _net6 _net8 Subst="Sub1" W="981 um" L="95.1 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
R:R2 _net8 _net7 R="100 Ohm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
Pac:P6 gnd _net7 Num="6" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Pac:P7 gnd _net8 Num="7" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
MLIN:MS7 _net0 _net9 Subst="Sub1" W="1.88 mm" L="92.6 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
MLIN:MS8 _net9 _net5 Subst="Sub1" W="981 um" L="95.1 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
MLIN:MS9 _net9 _net1 Subst="Sub1" W="981 um" L="95.1 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85" TranModel="DC"
R:R3 _net1 _net5 R="100 Ohm" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
.SP:SP2 Type="lin" Start="0MHz" Stop="880MHz" Points="300" Noise="no" NoiseIP="1" NoiseOP="2" saveCVs="no" saveAll="no"
Eqn:Eqn1 S11_dB="dB(S[1,1])" S21_dB="dB(S[2,1])" S22_dB="dB(S[2,2])" S31_dB="dB(S[3,1])" S33_dB="dB(S[3,3])" S41_dB="dB(S[4,1])" S44_dB="dB(S[4,4])" S51_dB="dB(S[5,1])" S55_dB="dB(S[5,5])" Export="yes"
SUBST:Sub1 er="4.5" h="1mm" t="12.5um" tand="0.0125" rho="2.43902e-08" D="1.5e-07"
